US09163021B2
(3-isopropyl-1H-pyrazol-1-yl)acetic acid
Prepared according to the analogous method described for Preparation 75, using 3-isopropyl-1H-pyrazole and ethyl bromoacetate isolating the higher running peak as the desired isomer, followed by the hydrolysis method of Preparation 74.

reactant | 3-isopropyl-1H-pyrazole | C(C)(C)C1=NNC=C1 | C6H10N2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | (3-isopropyl-1H-pyrazol-1-yl)acetic acid | C(C)(C)C1=NN(C=C1)CC(=O)O | C8H12N2O2
